US05688795
A mixture of 4-benzyl-1-(2-oxazol-2-ylphenyl)piperazine (0.906 g, 2.84 mmol) and 10% palladium on carbon (1 g) in 20 mL of methanol was stirred under a hydrogen atmosphere (1 atm) at room temperature for 4 hours. The mixture was filtered and concentrated by rotary evaporation to give 1-(2-oxazol-2-ylphenyl)piperazine (0.480 g, 2.1 mmol).

reactant | 4-benzyl-1-(2-oxazol-2-ylphenyl)piperazine | 2.84 mmol, 0.906 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)C=1OC=CN1 | C20H21N3O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 1-(2-oxazol-2-ylphenyl)piperazine | 2.1 mmol, 0.480 g | O1C(=NC=C1)C1=C(C=CC=C1)N1CCNCC1 | C13H15N3O
